US06380392B1
To a 125 mL Teflon lined autoclave was added 5 g (17.5 mmol) of 1,1′-bi-2-naphthol, 23.47 g (175 mmol) of (NH4)2SO3H2O and 65 mL of concentrated aqueous ammonia. The mixture was heated in an oil-bath to 200° C. for 5 days, then cooled down to ambient temperature and filtered. The resulting solid was washed with water followed by recrystallization from benzene to afford 4.52 g (15.8 mmol, 91%) of pure 2-amino-2′-hydroxy-1,1′-binaphthyl. Enantiomerically pure NOBIN can be obtained by the resolution methods reported in the literature (Ding, K.; Wang, Y.; Yun, H.; Lin, J.; Wu, Y.; Terada, M.; Okubs, Y.; Mikami, K.; Chem. Eur. J. 1999, 5, 1734-1737).

reactant | 1,1′-bi-2-naphthol | 17.5 mmol, 5 g | C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | C20H14O2
reactant | ammonia | 65 mL | N | H3N
product | 2-amino-2′-hydroxy-1,1′-binaphthyl | 15.8 mmol, 4.52 g, 91% | NC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)O | C20H15NO
